US04663331
In a manner similar to Description 1 (iii) and (iv), reaction of N-5-hexynylphthalimide, paraformaldehyde and pyrrolidine, followed by treatment with hydrazine hydrate gives 7-pyrrolidinohept-5-ynylamine.

reactant | N-5-hexynylphthalimide | C(CCCC#C)N1C(C=2C(C1=O)=CC=CC2)=O | C14H13NO2
reactant | paraformaldehyde | C=O | CH2O
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | hydrazine hydrate | O.NN
product | 7-pyrrolidinohept-5-ynylamine | N1(CCCC1)CC#CCCCCN | C11H20N2
